US08283354B2
(S)-3-Hydroxymethyl-4-[2(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]piperazine-1-carboxylic acid tetrahydro-furan-3-yl ester
To 2-[4-(2-hydroxymethyl-piperazin-1-yl)-7-methyl-quinazolin-2-yl]-phenol (69.2 mg, 0.19 mmol) in 650 μL of CH2Cl2 at 0° C. was added (S)-tetrahydro-furan-3-ol-chloroformate (26.8 mg, 0.17 mmol), followed by triethylamine (30 μL, 0.22 mmol). The reaction mixture was stirred for an hour and then diluted with 5 mL of CH2Cl2 and 5 mL of water, and the organic layer was separated and dried over Na2SO4. The solvent was removed under reduced pressure, and the residue was subjected to purification using 30-100% EtOAc-hexanes to give the desired product. LC/MS: m/z 465.2 (M+H)+ at 2.5 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-[4-(2-hydroxymethyl-piperazin-1-yl)-7-methyl-quinazolin-2-yl]-phenol | 0.19 mmol, 69.2 mg | OCC1N(CCNC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O2
reactant | (S)-tetrahydro-furan-3-ol chloroformate | 0.17 mmol, 26.8 mg | O1C[C@H](CC1)O.ClC(=O)[O-]
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 650 μL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | (S)-3-Hydroxymethyl-4-[2(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]piperazine-1-carboxylic acid tetrahydro-furan-3-yl ester | O1CC(CC1)OC(=O)N1C[C@H](N(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CO | C25H28N4O5
